US05973148
7. Preparation of N-(4-Bromo-l-methyl-5-pyrazolyl)-S,S-dimethylsulfilimine
A solution of 0.60 mL (8.2 mmol) of dimethyl sulfide in 30 mL of dichloromethane was cooled to -20° C. and 0.50 g (7.0 mmol) of chlorine was added through a sparge tube with cooling and stirring. Subsequently, 1.0 g (5.7 mmol) of 5-amino-4-bromo-l-methylpyrazole and then 1.0 g (12.7 mmol) of pyridine were added with cooling and stirring. A 2 mL aliquot of this mixture was removed and the light yellow solids present were collected by filtration and washed with deuteroacetonitrile.

reactant | dimethyl sulfide | 8.2 mmol, 0.60 mL | CSC | C2H6S
reactant | chlorine | 7.0 mmol, 0.50 g | ClCl | Cl2
reactant | 5-amino-4-bromo-l-methylpyrazole | 5.7 mmol, 1.0 g | NC1=C(C=NN1C)Br | C4H6BrN3
reactant | pyridine | 12.7 mmol, 1.0 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(4-Bromo-l-methyl-5-pyrazolyl)-S,S-dimethylsulfilimine | BrC=1C=NN(C1N=S(C)C)C | C6H10BrN3S
